US05409928
(4) Preparation of 2-(4-phenylhydroxymethyl-3-methylbenzyloxy) tetrahydropyran
2-(4-Bromo-3-methylbenzyloxy)tetrahydropyran (1.4 g, 5 millimol) was dissolved in tetrahydrofuran (5 ml), and cooled to -20° C. with methanol-water. Under nitrogen atmosphere, thereto was added 15% hexane solution (5 ml) of n-butyllithium, and in this state, the mixture was stirred for 30 minutes. Next, benzaldehyde (0.6 ml, 6 millimol) was added, and stirred for 2 hours. During this procedure, inner-temperature was raised from -20° C. to 30° C. Then, water was added, and the mixture was extracted with ethyl acetate. After washing with water and saturated aqueous sodium chloride solution, the solvent was distilled away, and the residue was separated and purified by using a silica-gel column chromatography (ethyl acetate:n-hexane=1:5 to 1:2) to give the title compound (0.9 g, 2.9 millimol).

reactant | 2-(4-Bromo-3-methylbenzyloxy)tetrahydropyran | 5 millimol, 1.4 g | BrC1=C(C=C(COC2OCCCC2)C=C1)C | C13H17BrO2
reactant | methanol water | CO.O
reactant | n-butyllithium | C(CCC)[Li]
reactant | benzaldehyde | 6 millimol, 0.6 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | hexane | 5 ml | CCCCCC | C6H14
product | 2-(4-phenylhydroxymethyl-3-methylbenzyloxy) tetrahydropyran | 2.9 millimol, 0.9 g | C1(=CC=CC=C1)C1=C(C=C(C(OC2OCCCC2)CO)C=C1)C | C20H24O3
